US04962202
(1) 4-p-Methoxybenzylthio-2-thiosemicarbazono pyrrolidine
A solution of 2-ethoxy-4-p-methoxybenzylthio-1-pyrroline (900 mg) and thiosemicarbazide hydrochloride (433 mg) in ethanol (30 ml) was refluxed under heating for 1.5 hours. The reaction solution was evaporated to dryness under reduced pressure, then the residue was distributed between ethyl acetate and 5% aqueous solution of sodium hydroxide and the organic phase was dried over Na2SO4 before the solvent was distilled off under reduced pressure. The resultant residue was passed through a column packed with 25 g of silica gel and eluted with ethyl acetate and thus 230 mg of the objective compound was obtained as colorless foam.

reactant | 2-ethoxy-4-p-methoxybenzylthio-1-pyrroline | 900 mg | C(C)OC1=NCC(C1)SCC1=CC=C(C=C1)OC | C14H19NO2S
reactant | thiosemicarbazide hydrochloride | 433 mg | Cl.NNC(=S)N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-p-Methoxybenzylthio-2-thiosemicarbazono pyrrolidine | 230 mg | COC1=CC=C(CSC2CC(NC2)=NNC(=S)N)C=C1 | C13H18N4OS2
